US08802713B2
5.0 g of 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenylhydrazine was dissolved in 50 mL of ethanol, and 5.0 g of ethyl 2-cyano-3,3-diethoxyacrylate was added, followed by stirring under reflux with heating for 6 hours. Then, the solvent was distilled off under reduced pressure, and extraction with ethyl acetate was carried out. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:3) to obtain 1.48g of ethyl-5-amino-3-ethoxy-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}pyrazole-4-carboxylate.

reactant | 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenylhydrazine | 5.0 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)NN | C9H10F4N2S
reactant | ethyl 2-cyano-3,3-diethoxyacrylate | 5.0 g | C(#N)C(C(=O)OCC)=C(OCC)OCC | C10H15NO4
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl-5-amino-3-ethoxy-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}pyrazole-4-carboxylate | 1.48g | C(C)OC(=O)C=1C(=NN(C1N)C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OCC | C17H19F4N3O3S
